US06359134B1
1-(6-Chloronaphthalene-2-sulfonyl)-4-[4-(2,3-di-tert-butoxycarbonylguanidino)cyclohexane-1-ylcarbonyl]piperazine
To a solution of 1-(4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride (220 mg) and triethylamine (232 mg) in methanol (10 ml)-tetrahydrofuran (10 ml) was added N,N′-di-tert-butoxycarbonyl-S-methylisothiourea (135 mg) and the solution was stirred at 40° C. for 24 hours. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:2) to give a colorless solid of the title compound (170 mg).

reactant | 1-(4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride | 220 mg | Cl.NC1CCC(CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl
reactant | triethylamine | 232 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | N,N′-di-tert-butoxycarbonyl-S-methylisothiourea | 135 mg | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
solvent | methanol | 10 ml | CO | CH4O
product | 1-(6-Chloronaphthalene-2-sulfonyl)-4-[4-(2,3-di-tert-butoxycarbonylguanidino)cyclohexane-1-ylcarbonyl]piperazine | 170 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCC(CC1)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C32H44ClN5O7S
